** Name: SymmetricalOpAmp192

.MACRO SymmetricalOpAmp192 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=24e-6
mDiodeTransistorNmos2 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=10e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=1e-6 W=40e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=181e-6
mDiodeTransistorPmos5 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=320e-6
mNormalTransistorNmos7 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=42e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=320e-6
mNormalTransistorNmos9 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=25e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=181e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=24e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=10e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=442e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=2e-6 W=418e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=2e-6 W=418e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=442e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=14e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=14e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mNormalTransistorPmos20 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp192

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 1.91201 mW
** Area: 11662 (mu_m)^2
** Transit frequency: 14.3941 MHz
** Transit frequency with error factor: 14.3941 MHz
** Slew rate: 16.7297 V/mu_s
** Phase margin: 71.6198°
** CMRR: 143 dB
** negPSRR: 140 dB
** posPSRR: 64 dB
** VoutMax: 4.25 V
** VoutMin: 0.760001 V
** VcmMax: 4.81001 V
** VcmMin: 1.42001 V


** Expected Currents: 
** NormalTransistorNmos: 24.9591 muA
** NormalTransistorPmos: -89.2929 muA
** NormalTransistorPmos: -89.2939 muA
** NormalTransistorPmos: -89.2929 muA
** NormalTransistorPmos: -89.2939 muA
** NormalTransistorNmos: 178.585 muA
** DiodeTransistorNmos: 178.586 muA
** NormalTransistorNmos: 89.2921 muA
** NormalTransistorNmos: 89.2921 muA
** NormalTransistorNmos: 84.4761 muA
** NormalTransistorNmos: 84.4751 muA
** NormalTransistorPmos: -84.4769 muA
** NormalTransistorPmos: -84.4759 muA
** DiodeTransistorNmos: 84.4741 muA
** DiodeTransistorNmos: 84.4731 muA
** NormalTransistorPmos: -84.4749 muA
** NormalTransistorPmos: -84.4759 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -24.9599 muA


** Expected Voltages: 
** ibias: 1.24201  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.608001  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 1.17101  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.622001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.91301  V
** innerStageBias: 0.612001  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V
** inner: 0.619001  V


.END